US07396831B2
(c) {7-[6-(4-Trifluoromethylphenyl)pyrimidin-4-ylamino]-1H-indol-2-yl}methanol
To a solution of 7-[6-(4-trifluoromethylphenyl)pyrimidin-4-ylamino]-1H-indole-2-carboxylic acid ethyl ester (285 mg, 0.67 mmol) in THF (2 mL) at 0° C. was added 1 M solution of LiAlH4 in THF (1.0 mL, Aldrich). The mixture was stirred at room temperature and the progress of the reaction was monitored by thin-layer chromatography. After completion of the reaction, to the mixture was added Na2SO4.10H2O (2 g), followed by the addition of MeOH (1 mL) and EtOAc (20 mL) with stirring at 0° C. The stirring was continued for 5 min and the mixture was filtered through a pad of Celite®. The filtrate was concentrated under vacuo and the residue was purified by silica gel column chromatography with gradient from 2% to 10% solution of (2 M NH3 in MeOH) in CH2Cl2 to afford the title compound as a yellow solid. MS (ESI, pos. ion.) m/z: 385 (M+1). MP: 221-223° C.

reactant | 7-[6-(4-trifluoromethylphenyl)pyrimidin-4-ylamino]-1H-indole-2-carboxylic acid ethyl ester | 0.67 mmol, 285 mg | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)NC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C22H17F3N4O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | MeOH | 1 mL | CO | CH4O
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | {7-[6-(4-Trifluoromethylphenyl)pyrimidin-4-ylamino]-1H-indol-2-yl}methanol | FC(C1=CC=C(C=C1)C1=CC(=NC=N1)NC=1C=CC=C2C=C(NC12)CO)(F)F | C20H15F3N4O
